US05882819
Synthesis of 5,5'-dithiobis (1-methyltetrazole)
Within a flask having a capacity of 1000 ml, 5-mercapto-1-methyltetrazole of 1000 mmol is solved in methanol of 450 ml, and the solution thus formed is cooled by water bathing. Into the solution thus prepared, 34.5% hydrogen peroxide of 20 ml is dropped slowly. At several minutes after dropping, the reaction generates heat, thus creating precipitate.

reactant | 5-mercapto-1-methyltetrazole | SC1=NN=NN1C | C2H4N4S
reactant | water | O | H2O
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | CO | CH4O
product | 5,5'-dithiobis (1-methyltetrazole) | CN1N=NN=C1SSC1=NN=NN1C | C4H6N8S2
